US04709081
2.42 g. (0.01 mole) of 3-phenoxybenzyl acetate, 5 cm3. of methanol and 5 cm3. of 2N hydrochloric acid solution are refluxed for three hours. Then the methanol is distilled off. The organic phase is dissolved in 30 cm3. of methylene chloride, washed with 10 cm3. of water, 10 cm3. of 1N sodium hydroxide solution and 10 cm3. of water then evaporated. 1.8 g. of 3-phenoxybenzyl alcohol are obtained. nD20 : 1.593, yield 90%.

reactant | 3-phenoxybenzyl acetate | 0.01 mole | C(C)(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1 | C15H14O3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | CO | CH4O
product | 3-phenoxybenzyl alcohol | yield 90% | O(C1=CC=CC=C1)C=1C=C(CO)C=CC1 | C13H12O2
